US05399768
A solution of 2,3-dichloro-4,6-dinitrophenol (2.2 g, 0,008 mol, from previous example), 4.5 g of potassium t-butoxide, 0.4 g of potassium hydroxide, 30 mL of N-methyl pyrrolidinone, and 15 mL of water in a 100 mL round-bottomed flask with stir bar is heated to 85° C. for 6 hours. Upon completion, the reaction mixture is poured into 50 mL of aqueous hydrochloric acid. The resulting product is isolated by filtration, washed with cold water, and air dried. The product is recrystallized from a minimal amount of methanol to yield 1.97 g of 2-chloro-4,6-dinitroresorcinol (95% yield) (85% overall from 1,2-dichloro-3,5-dinitrobenzene).

reactant | 2,3-dichloro-4,6-dinitrophenol | 0,008 mol, 2.2 g | ClC1=C(C(=CC(=C1Cl)[N+](=O)[O-])[N+](=O)[O-])O | C6H2Cl2N2O5
reactant | potassium t-butoxide | 4.5 g | CC(C)([O-])C.[K+]
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | water | 15 mL | O | H2O
solvent | N-methyl pyrrolidinone | 30 mL | CN1CCCC1=O | C5H9NO
product | 2-chloro-4,6-dinitroresorcinol | 1.97 g, 95% yield | ClC1=C(O)C(=CC(=C1O)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O6
